Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Norvasc
 
Attending: ___.
 
Chief Complaint:
Peripheral Vascular Disease
 
Major Surgical or Invasive Procedure:
Left lower extremity angiography, angioplasty left AT via DP and 
groin access
 
History of Present Illness:
___ M s/p recent L ___ and peroneal PTA in ___ for left lower
extremity claudication symptoms presents for pre-operative
optimization prior to repeat LLE angiography via retrograde
approach. Pt has been having claudication symptoms with some toe
pain intermittently at rest. Otherwise does not report any
complaints today, denies any chest pain, fevers, chills, NVD,
SOB, headache, numbness, or tingling. Of note, has been holding
warfarin since last week in preparation for intervention. Had
recent mechanical fall on ___, evaluated at ___ in ___
with negative workup, sent home from ED. In no acute distress
today. 

 
Past Medical History:
Past Medical History: ESRD ___ hypertensive nephrosclerosis,
HFpEF, Renal artery stenosis, HTN, HLD, Anemia, Erosive
gastritis, Gout, Secondary hyperparthyoridism, Hypothyroidism,
BPH, Renal cyst, Mitral regurgitation, Atrial fibrillation,
Aortic arch aneurysm, Basal cell carcinoma, Squamous cell
carcinoma

Past Surgical History:
-PD catheter placement
-umbilical hernia repair
-Left carotid subclavian artery transposition
-thyroidectomy
-TEVAR
- L ___ PTA, peroneal PTA

 
Social History:
___
Family History:
-Mother: HTN  
-Brother: MI  
-Sister: CVA  
-Aunt: lung CA  
-Daughter: ___ disease
 
Physical Exam:
Discharge Physical Exam
Vitals: T 98.1 HR 56 BP 110/60 RR 18 97 % RA
Gen: Awake, alert, NAD
Pulm: no respiratory distress
CV: Irregularly irregular
Abd: Soft, nontender, nondistended. PD catheter in place
Neuro: Grossly intact
Ext: Trace bilateral ___ edema, L groin and DP access sites with 
scant amount of dried sanguinous material
Pulses:
     F / Pop / DP / ___
L:  P /  P    / P    / D
R:  P /  P    / D   /  D
 
Pertinent Results:
___ 01:35PM BLOOD WBC-8.9 RBC-3.41* Hgb-11.0* Hct-34.7* 
MCV-102* MCH-32.3* MCHC-31.7* RDW-16.6* RDWSD-61.3* Plt ___
___ 11:45AM BLOOD ___ PTT-38.6* ___
___ 11:45AM BLOOD Glucose-112* UreaN-45* Creat-9.1* Na-134 
K-4.0 Cl-92* HCO___ AnGap-___
 
Brief Hospital Course:
Mr. ___ is a ___ M with peripheral vascular disease who was 
admitted to the ___ on ___ 
for preoperative optimization prior to his scheduled left lower 
extremity angiogram. The patient was taken to the endovascular 
suite and underwent left lower extremity angiograpy via 
antegrade and retrograde access with angioplasty of the anterior 
tibial artery. For details of the procedure, please see the 
surgeon's operative note. The patient tolerated the procedure 
well without complications and was brought to the 
post-anesthesia care unit in stable condition. After a brief 
stay, the patient was transferred to the vascular surgery floor 
where he remained through the rest of the hospitalization. 

Post-operatively, he did well. He was loaded with Plavix in the 
endovascular suite and was started on PO Plavix on POD 1. On the 
evening of POD 0, he was noted to have some slight oozed from 
his groin access site; this resolved with some direct pressure 
and was not arterial in nature. He was able to tolerate a 
regular diet, get out of bed and ambulate without assistance, 
continue his peritoneal dialysis without issues, and pain was 
controlled on oral medications alone. He was deemed ready for 
discharge, and was given the appropriate discharge and follow-up 
instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
___  MD to order daily dose PO DAILY16 
2. Amoxicillin ___ mg PO PREOP 
3. Lactulose 15 mL PO BID 
4. Simvastatin 20 mg PO QPM 
5. Omeprazole 20 mg PO BID 
6. Allopurinol ___ mg PO EVERY OTHER DAY 
7. Metoprolol Succinate XL 75 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. fluorouracil 5 % topical ASDIR 
10. sevelamer CARBONATE 800 mg PO TID W/MEALS 
11. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes 
12. Nephrocaps 1 CAP PO DAILY 
13. Aspirin 81 mg PO DAILY 
14. Acetaminophen 650 mg PO Q6H:PRN pain 
15. Levothyroxine Sodium 150 mcg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Allopurinol ___ mg PO EVERY OTHER DAY 
3. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes 
4. Aspirin 81 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Lactulose 15 mL PO BID 
7. Levothyroxine Sodium 150 mcg PO DAILY 
8. Metoprolol Succinate XL 75 mg PO DAILY 
9. Nephrocaps 1 CAP PO DAILY 
10. Omeprazole 20 mg PO BID 
11. sevelamer CARBONATE 800 mg PO TID W/MEALS 
12. Simvastatin 20 mg PO QPM 
13. ___  MD to order daily dose PO DAILY16 
may take 2 mg daily pending first ___ INR check 
14. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
15. Amoxicillin ___ mg PO PREOP 
16. Fluorouracil 5 % TOPICAL ASDIR 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Peripheral vascular disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital for 
angiography and angioplasty of the blood vessels in your left 
leg.  To perform this procedure, small punctures were made in 
the artery in your groin and your left foot.  You tolerated the 
procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.

Division of Vascular and Endovascular Surgery
 Lower extremity Angiography

WHAT TO EXPECT:
_x0095_ Bruising, tenderness, and a sensation of fullness at the groin 
puncture sites (or incisions) is normal and will go away in 
one-two weeks
 CARE OF THE GROIN PUNCTURE SITES:
_x0095_ It is normal to have mild swelling, a small bruise, or small 
amounts of drainage at the groin puncture sites.  In two weeks, 
you may feel a small, painless, pea sized knot at the puncture 
sites.  This too is normal.  Male patients may notice swelling 
in the scrotum.  The swelling will get better over one-two 
weeks.
_x0095_ Look at the area daily to see if there are any changes.  Be 
sure to report signs of infection.  These include: increasing 
redness; worsening pain; new or increasing drainage, or drainage 
that is white, yellow, or green; or fever of 101.5 or more.  (If 
you have taken aspirin, Tylenol, or other fever reducing 
medicine, wait at least ___ hours after taking it before you 
check your temperature in order to get an accurate reading.)
 FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)
_x0095_ If you have sudden, severe bleeding or swelling at either of 
the groin puncture sites: 
 -Lie down, keep leg straight and apply (or have someone apply) 
firm pressure to area for ___ minutes with a gauze pad or 
clean cloth. 
 -Once bleeding has stopped, call your surgeon to report what 
happened.   
 -If bleeding does not stop, call ___ for transfer to closest 
Emergency Room. 
_x0095_ You may shower 48 hours after surgery.  Let the soapy water 
run over the puncture sites, then rinse and pat dry.  Do not rub 
these sites and do not apply cream, lotion, ointment or powder. 
_x0095_ Wear loose-fitting pants and clothing as this will be less 
irritating to the groin puncture sites. 
 MEDICATIONS
_x0095_ You will be given prescriptions for any new medication started 
during your hospital stay.
_x0095_ Before you go home, your nurse ___ give you information about 
new medication and will review all the medications you should 
take at home.  Be sure to ask any questions you may have.  If 
something you normally take or may take is not on the list you 
receive from the nurse, please ask if it is okay to take it. 
 PAIN MANAGEMENT
_x0095_ Most patients do not have much pain following this procedure.  
 Your puncture sites may be a little sore.  This will improve 
daily. If it is getting worse, please let us know.
 _x0095_ You will be given instructions about taking pain medicine if 
you need it.
 ACTIVITY
_x0095_ You must limit activity to protect the puncture sites in your 
groin.  For ONE WEEK:
 -Do not drive
 -Do not swim, take a tub bath or go in a Jacuzzi or hot tub
 -Do not lift, push, pull or carry anything heavier than five 
pounds
 -Do not do any exercise or activity that causes you to hold 
your breath or bear down with your abdominal muscles.
 -Do not resume sexual activity
_x0095_ Discuss with your surgeon when you may return to other regular 
activities, including work.  If needed, we will give you a 
letter for your workplace. 
_x0095_ It is normal to feel weak and tired.  This can last six-eight 
weeks, but should get better day by day.   You may want to have 
help around the house during this time.
_x0095_ ___ push yourself too hard during your recovery.  Rest when 
you feel tired.  Gradually return to normal activities over the 
next month.
_x0095_ We encourage you to walk regularly. Walking, especially 
outdoors in good weather is the best exercise for circulation.  
Walk short distances at first, even in the house, then do a 
little more each day.
_x0095_ It is okay to climb stairs.  You may need to climb them slowly 
and pause after every few steps. 

DIET
_x0095_ It is normal to have a decreased appetite.  Your appetite will 
return over time.
_x0095_ Follow a well balance, heart-healthy diet, with moderate 
restriction of salt and fat. 
_x0095_ Eat small, frequent meals with nutritious food options (high 
fiber, lean meats, fruits, and vegetables) to maintain your 
strength and to help with wound healing.
 BOWEL AND BLADDER FUNCTION
_x0095_ You should be able to pass urine without difficulty.  Call you 
doctor if you have any problems urinating, such as burning, 
pain, bleeding, going too often, or having trouble urinating or 
starting the flow of urine.   Call if you have a decrease in the 
amount of urine. 
_x0095_ You may experience some constipation after surgery because of 
pain medicine and changes in activity.  Increasing fluids and 
fiber in your diet and staying active can help.  To relief 
constipation, you may talk a mild laxative.   Please take to 
your pharmacist for advice about what to take. 
 SMOKING
_x0095_ If you smoke, it is very important that you STOP.   Research 
shows smoking makes vascular disease worse.  This could increase 
the chance of a blockage in your new graft.  Talk to your 
primary care physician about ways to quit smoking. 

CALLING FOR HELP/DANGER SIGNS
 If you need help, please call us at ___.  Remember, 
your doctor, or someone covering for your doctor, is available 
24 hours a day, seven days a week.   If you call during 
nonbusiness hours, you will reach someone who can help you reach 
the vascular surgeon on call. 
 Call your surgeon right away for:
_x0095_ Pain in the groin area that is not relieved with medication, 
or pain that is getting worse instead of better
_x0095_ Increased redness at the groin puncture sites
_x0095_ New or increased drainage from the groin puncture sites, or 
white yellow, or green drainage 
_x0095_ Any new bleeding from the groin puncture sites.  For sudden, 
severe bleeding, apply pressure for ___ minutes. If the 
bleeding stops, call your doctor right away to report what 
happened.  If it does not stop, call ___
_x0095_ Fever greater than 101.5 degrees
_x0095_ Nausea, vomiting, abdominal cramps, diarrhea or constipation
_x0095_ Any worsening pain in your abdomen
_x0095_ Problems with urination
_x0095_ Changes in color or sensation in your feet or legs 
 CALL ___ in an EMERGENCY, such as
_x0095_ Any sudden, severe pain in the back, abdomen, or chest
_x0095_ A sudden change in ability to move or use your legs or severe 
pain in your legs
_x0095_ Sudden, severe bleeding or swelling at either groin site that 
does not stop after applying pressure for ___ minutes

Weigh yourself every morning, call PCP if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___